US07932279B2
[5′-(1-Butyl-1H-tetrazol-5-yl)-2′,4′-dihydroxy-biphenyl-3-yl]-[4-(3-morpholin-4-yl propyl)-piperazin-1-yl]-methanone (56)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-(1-butyl-1H-tetrazol-5-yl)-biphenyl-3-carboxylic acid and 1-(3-morpholinopropyl)-piperazine as described in general procedure D. LCMS: 550 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-(1-butyl-1H-tetrazol-5-yl)-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCC)C1=CC(=CC=C1)C(=O)O | C32H30N4O4
reactant | 1-(3-morpholinopropyl)-piperazine | O1CCN(CC1)CCCN1CCNCC1 | C11H23N3O
product | [5′-(1-Butyl-1H-tetrazol-5-yl)-2′,4′-dihydroxy-biphenyl-3-yl]-[4-(3-morpholin-4-yl propyl)-piperazin-1-yl]-methanone | C(CCC)N1N=NN=C1C=1C(=CC(=C(C1)C1=CC(=CC=C1)C(=O)N1CCN(CC1)CCCN1CCOCC1)O)O | C29H39N7O4
